US09062055B2
Step 1. N-Methoxy-N,3-dimethyl-1H-indole-2-carboxamide
A mixture of 3-methyl-1H-indole-2-carboxylic acid (from Matrix Scientific, 1.0 g, 5.7 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (4.3 g, 11 mmol) and triethylamine (4.0 mL, 28 mmol) in N,N-dimethylformamide (20 mL) was stirred at room temperature for 10 minutes. N,O-Dimethylhydroxylamine hydrochloride (0.84 g, 8.6 mmol) was added and the resulting suspension was stirred at room temperature over the weekend. The mixture was quenched with water and extracted with EtOAc. The combined organic layers were dried over MgSO4, concentrated, and purified on silica gel (eluting with 0-30% EtOAc/hexane) to give the desired product (1.1 g, 88%). LCMS calculated for C12H15N2O2(M+H)+: m/z=219.1. Found: 219.1.

reactant | 3-methyl-1H-indole-2-carboxylic acid | 5.7 mmol, 1.0 g | CC1=C(NC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 11 mmol, 4.3 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 28 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-Dimethylhydroxylamine hydrochloride | 8.6 mmol, 0.84 g | Cl.CNOC
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-Methoxy-N,3-dimethyl-1H-indole-2-carboxamide | 1.1 g, 88% | CON(C(=O)C=1NC2=CC=CC=C2C1C)C | C12H14N2O2
